US05530019
The procedure of Ex. 1 was repeated except that (E)-3-(2-methyl-2-undecenyl)indole obtained in Pre. Ex. 25 was used in place of 3-heptanoylindole, and 4-methoxybenzyl 4-bromobutyrate was used in place of 4-bromobutyrate to give (E)-4-methoxybenzyl 4-[3-(2-methyl-2-undecenoyl)-1-indolyl]butyrate as an oil.

reactant | (E)-3-(2-methyl-2-undecenyl)indole | C/C(/CC1=CNC2=CC=CC=C12)=C\CCCCCCCC | C20H29N
reactant | 3-heptanoylindole | C(CCCCCC)(=O)C1=CNC2=CC=CC=C12 | C15H19NO
reactant | 4-methoxybenzyl 4-bromobutyrate | BrCCCC(=O)OCC1=CC=C(C=C1)OC | C12H15BrO3
product | (E)-4-methoxybenzyl 4-[3-(2-methyl-2-undecenoyl)-1-indolyl]butyrate | C/C(/C(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC)=C\CCCCCCCC | C32H41NO4
